US09278985B2
Preparation 3: 2,6-Dichloro-5-methoxy-4-vinyl pyrimidine
To a solution of commercially available 2,6-dichloro-5-methoxy pyrimidine (100 g, 0.55 mol) in dry tetrahydrofuran was added, dropwise, 1M vinyl magnesium bromide in tetrahydrofuran solvent (124 g, 0.94 mol) over one hour (h) at room temperature. The mixture was then stirred for 4 h at room temperature. Excess Grignard reagent was quenched by addition of acetone (200 mL) while the temperature of the mixture was maintained at a temperature below 20° C. Thereafter, 2,3-dichloro-5,6-dicyano-p-benzoquinone (DDQ) (151 g, 0.67 mol) was added at once and stirred overnight. A yellow solid precipitated out. The solid was filtered and washed with ethyl acetate (500 mL). The filtrate was concentrated under reduced pressure and the resulting crude compound was diluted with ethyl acetate (2 L). The resulting undissolved, dark, semi-solid was separated by filtration using ethyl acetate. It was further concentrated under reduced pressure to provide a crude compound, which was purified by column chromatography. The compound was eluted with 5% to 10% ethyl acetate in hexane mixture to provide the title compound (70 g, 60%): mp 60-61° C.; 1H NMR (CDCl3) δ 3.99 (s, 3H), 5.85 (d, 1H), 6.75 (d, 1H), 6.95 (dd, 1H).

reactant | 2,6-dichloro-5-methoxy pyrimidine | 0.55 mol, 100 g | ClC1=NC(=C(C=N1)OC)Cl | C5H4Cl2N2O
reactant | vinyl magnesium bromide | 1M | C(=C)[Mg]Br
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 0.67 mol, 151 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.94 mol, 124 g | O1CCCC1 | C4H8O
product | 2,6-Dichloro-5-methoxy-4-vinyl pyrimidine | 70 g, 60% | ClC1=NC(=C(C(=N1)C=C)OC)Cl | C7H6Cl2N2O
